US05676706
Preparation of Copper(II) Glycinate
1.8 g (9.8 mmol) copper(II) acetate is dissolved in 100 ml hot methanol, and a solution of 1.5 g (20 mmol) glycine in 50 ml methanol is added with stirring. The solution becomes turbid due to precipitation of the product. Stirring is continued for two hours at a temperature causing precipitation. The precipitated product is filtered off and dried.

reactant | copper(II) acetate | 9.8 mmol, 1.8 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
reactant | glycine | 20 mmol, 1.5 g | NCC(=O)O | C2H5NO2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | Copper(II) Glycinate | NCC(=O)[O-].[Cu+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Cu/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
